US07429665B2
2-Pyridazin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone
Following the procedure for the preparation of 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone but substituting 4-methyl pyridazine for 4-picoline provided the title compound. 1H NMR (400 MHz, CDCl3) δ 9.12 (d, J=5.4 Hz, 1 H), 9.08 (d, J=8.7 Hz, 2.1 H), 8.20 (d, J=8.3 Hz, 1H), 8.07 (d, J=8.3 Hz, 1 H), 7.96 (m, 2 H), 7.83 (d, J=7.9 Hz, 1 H), 7.76 (m, 1 H), 7.62 (d, J=8.3 Hz, 1 H), 7.55 (m, 1 H) 7.38 (dd, J=5.4, 2.5 Hz, 1H), 7.09 (m, 2H), 5.44 (s, 2H) 4.23 (s, 2H); MS: (M+H m/z=356.2).

reactant | 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H18N2O2
reactant | 4-picoline | N1=CC=C(C=C1)C | C6H7N
product | 2-Pyridazin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | N1=NC=C(C=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C22H17N3O2
